US08026366B2
A mixture of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (1.00 mg, 4.08 mmol), cesium carbonate (5.30 g, 16.3 mmol), and DMF (40 mL) was stirred at 50° C. for 10 minutes. A portion (0.05 mL) of a solution (1.1 mL) of 1-bromo-3-chloropropane (705 mg, 4.48 mmol) in DMF was added every 7 minutes. After 2 hours the reaction mixture was poured into water (225 mL). The mixture was stirred for 30 minutes and then filtered. The isolated solid was dried to provide 785 mg of 7-(3-chloropropoxy)-2-ethylthiazolo[4,5-c]quinolin-4-amine as a brown solid.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 4.08 mmol, 1.00 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 16.3 mmol, 5.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-chloropropane | 4.48 mmol, 705 mg | BrCCCCl | C3H6BrCl
reactant | water | 225 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 7-(3-chloropropoxy)-2-ethylthiazolo[4,5-c]quinolin-4-amine | 785 mg | ClCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CC | C15H16ClN3OS
